US06407261B1
1-(3-chlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole was prepared from 1,5,6,7-tetrahydro-4H-indol-4-one and 3-chlorobenzylbromide using methodology common to the art. The pyrrole (0.5 g, 1.9 mmol) was dissolved in tetrahydrofuran (2.5 mL). Sodium hydride (0.18 g, 4.4 mmol) was added. After 5 minutes, methyl benzenesulfinate (0.48 g, 3.1 mmol) was added. The color of the mixture darkened to red as gas evolution was observed. The mixture was stirred for 1 hour. Thin layer chromatography indicated complete consumption of starting material (sulfoxides, Rf 0.11; 1/1 hexane/ethyl acetate). The reaction mixture was quenched with water, stirred for 10 minutes, and diluted with chloroform. The solution was washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate and evaporated to give an orange oil. The oil was dissolved in dioxane (5 mL) and refluxed for 3 hours at which time the sulfoxides were no longer observed by thin layer chromatography. The reaction mixture was cooled to room temperature and a solution of lithium hydroxide (85 mg) in water (2 mL) was added. The solvent was evaporated and the residue was dissolved in chloroform. The solution was washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate and evaporated to give an orange oil. Column chromatography with 20% ethyl acetate in hexane provided 0.41 g of a yellow solid. (81% yield) TLC Rf 0.28 (20% EtOAc in hexane); 1H NMR (CDCl3): d 7.30 (d, J=8.2, 1 H), 7.24 (t, J=7.8, 1 H), 7.18 (s, 1 H), 7.11 (t, J=7.9, 1 H), 7.07 (d, J=3.2, 1 H), 6.98 (d, J=7.6, 1 H), 6.92 (d, J=8.3, 1 H), 6.75 (d, J=3.3, 1 H), 6.63 (d, J=7.6, 1 H), 6.01 (s, 1 H), 5.24 (s, 2 H).

reactant | 1,5,6,7-tetrahydro-4H-indol-4-one | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | 3-chlorobenzylbromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | pyrrole | 1.9 mmol, 0.5 g | N1C=CC=C1 | C4H5N
reactant | Sodium hydride | 4.4 mmol, 0.18 g | [H-].[Na+]
reactant | methyl benzenesulfinate | 3.1 mmol, 0.48 g | C1(=CC=CC=C1)S(=O)OC | C7H8O2S
reactant | lithium hydroxide | 85 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-chlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole | ClC=1C=C(CN2C=CC=3C(CCCC23)=O)C=CC1 | C15H14ClNO
